US08030337B2
N-[2-(2-Phenyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide
N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}benzamide (100 mg, 0.257 mmol) and pyridinium p-toluenesulfonate (12.9 mg, 0.0513 mmol) were heated under reflux in xylene (5 mL) for 2.5 hr. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane=30/70→60/40) and recrystallized (ethyl acetate/diisopropyl ether) to give the title compound (67.5 mg, yield 82%).

reactant | N-{3-[2-(Acetylamino)ethyl]-4-hydroxy-2,3-dihydro-1H-inden-5-yl}benzamide | 0.257 mmol, 100 mg | C(C)(=O)NCCC1CCC2=CC=C(C(=C12)O)NC(C1=CC=CC=C1)=O | C20H22N2O3
reactant | pyridinium p-toluenesulfonate | 0.0513 mmol, 12.9 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 5 mL | C=1(C(=CC=CC1)C)C | C8H10
product | N-[2-(2-Phenyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]acetamide | 67.5 mg, yield 82% | C1(=CC=CC=C1)C=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C)=O | C20H20N2O2
